US05145899
Preparation of 1,4-bis{4-([4-benzoyl]phenoxy)benzoyl}benzene (BDTDB)
In a 2 liter flask equipped with a nitrogen inlet, mechanical stirrer and condenser (with nitrogen outlet) were charged 100 g (0.2125 moles) of 1,4-bis (4-phenoxybenzoyl)benzene (DTD), 179 g (1.34 moles) of aluminum chloride and 800 ml of o-dichlorobenzene. To this stirring solution, 49.34 ml of benzoyl chloride (59.77 g, 0.4251 moles) in 200 ml o-dichlorobenzene were added dropwise at room temperature over 0.5 hr. The temperature rose somewhat during benzoyl chloride addition and after the addition was complete, the reaction temperature was raised to 95°-100° C. and held for about 2.5 hrs. Hydrochloric acid generated during the reaction was swept out with nitrogen and neutralized with aqueous sodium hydroxide solution. Afterwards, the reaction solution was cooled to room temperature and precipitated into methanol. The solid product was filtered off and allowed to air dry. It was then dissolved in hot o-dichlorobenzene, filtered through a heated coarse fritted filter, and allowed to cool and crystallize. After filtration, the white crystalline product was slurried twice in methanol to remove residual o-dichlorobenzene and then dried under vacuum with an nitrogen bleed at 150° C. A single, sharp melting point (by DSC, 20° C./min) was found for this material at 287.5° C. (peak maximum).

reactant | 1,4-bis (4-phenoxybenzoyl)benzene | 0.2125 moles, 100 g | O(C1=CC=CC=C1)C1=CC=C(C(=O)C2=CC=C(C=C2)C(C2=CC=C(C=C2)OC2=CC=CC=C2)=O)C=C1 | C32H22O4
reactant | aluminum chloride | 1.34 moles, 179 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzoyl chloride | 0.4251 moles, 49.34 ml, 59.77 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | o-dichlorobenzene | 200 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | o-dichlorobenzene | 800 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1,4-bis{4-([4-benzoyl]phenoxy)benzoyl}benzene | C(C1=CC=CC=C1)(=O)C1=CC=C(OC2=CC=C(C(=O)C3=CC=C(C=C3)C(C3=CC=C(C=C3)OC3=CC=C(C=C3)C(C3=CC=CC=C3)=O)=O)C=C2)C=C1 | C46H30O6
